US07402595B2
6-bromo-2-(4-methanesulfonylbenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid N-methoxy-N-methylamide
To a solution of 6-bromo-2-(4-methanesulfonylbenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carbonyl chloride (200 mg) in methylene chloride (4 ml) were added N,O-dimethylhydroxylamin e hydrochloride (70 mg) and triethylamine (0.2 ml) and the mixture was stirred at room temperature for 12 hrs. The reaction mixture was concentrated under reduced pressure and water was added to the residue. The mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and crystallized from diisopropyl ether to give the title compound (180 mg).

reactant | 6-bromo-2-(4-methanesulfonylbenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carbonyl chloride | 200 mg | BrC=1C=C2C(=C(N(C(C2=CC1)=O)CC1=CC=C(C=C1)S(=O)(=O)C)C(=O)Cl)C1=CC=CC=C1 | C24H17BrClNO4S
reactant | N,O-dimethylhydroxylamin e hydrochloride | 70 mg | Cl.CNOC
reactant | triethylamine | 0.2 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
product | 6-bromo-2-(4-methanesulfonylbenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid N-methoxy-N-methylamide | 180 mg | CON(C(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1=CC=C(C=C1)S(=O)(=O)C)C | C26H23BrN2O5S
